US05597922
5,7-Dichloro-3-oximinoquinoline-2,4-dione (10b).
To a mixture of 147 mg (0.616 mmol) of 5,7-dichloro-2,4-quinolinediol and 126 mg (1.82 mmol) of NaNO2 in 3 mL of 0.2N NaOH in ice-bath was added dropwise 2 mL of aqueous 2N H2SO4. The mixture was stirred in ice-bath for 4 h after addition of H2SO4, filtered and dried to leave an orange solid. The solid was crystallized by boiling with 10 mL of ethanol (95% ). The solution was cooled to room temperature, filtered and dried to leave 132 mg (83%) of 5,7-dichloro-3-oximequinoline-2,4-dione as a yellow solid, mp 244°-245° C. (decomposed). 1H NMR (CDCl3 +DMSO-d6), 7.011 (d, 0.44, J=1.8) 7.080 (m, 1.54), 11.567 (sb, 0.35), 11.821 (s, 0.46). MS, 258 (100, M+), 241 (60), 214 (80), 187 (20), 160 (30). High resolution MS, Calcd for C9H435Cl2N2O3, 257.9595, found 257.9598.

reactant | 5,7-dichloro-2,4-quinolinediol | 0.616 mmol, 147 mg | ClC1=C2C(=CC(=NC2=CC(=C1)Cl)O)O | C9H5Cl2NO2
reactant | NaNO2 | 1.82 mmol, 126 mg | N(=O)[O-].[Na+]
reactant | H2SO4 | 2N | OS(=O)(=O)O | H2O4S
solvent | NaOH | 0.2N, 3 mL | [OH-].[Na+]
product | 5,7-Dichloro-3-oximinoquinoline-2,4-dione | ClC1=C2C(C(C(NC2=CC(=C1)Cl)=O)=NO)=O | C9H4Cl2N2O3
